US06228841B1
Z-D-Arg(Tos)-Phe-MeβAla-O-t-Bu (31.9 g, 41.0 mmol) was dissolved in methanol (200 ml), and added with 5% Pd-C (water content: 50%, 32 g) as catalyst, and catalytic reduction was carried out for four hours to remove the protective group. After the catalyst was removed by filtration, the solvent was evaporated under reduced pressure, and then the residue was dissolved in dimethylformamide (100 ml). Z-Tyr(t-Bu)-OH (13.7 g, 36.9 mmol) and 1-hydroxybenzotriazole (5.54 g, 41.0 mmol) were dissolved in the solution. This solution was cooled to −10° C., added with 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (7.86 g, 41.0 mmol), and then stirred at −10° C. for one hour and further at room temperature for 20 hours. After the solvent was evaporated under reduced pressure, the reaction mixture was added with ethyl acetate (100 ml), and washed with 1N hydrochloric acid and then with saturated aqueous sodium hydrogencarbonate. The solvent was concentrated under reduced pressure to obtain an oily product, which was purified by silica gel column chromatography (chloroform: methanol=40:1 (v/v)) to obtain 27.8 g of Z-Tyr(t-Bu)-DArg(Tos)-Phe-MeβAla-O-t-Bu as white powder.

reactant | Z-D-Arg(Tos)-Phe-MeβAla-O-t-Bu | 41.0 mmol, 31.9 g | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(CCC(=O)OC(C)(C)C)C)C(=O)OCC1=CC=CC=C1 | C38H50N6O8S
reactant | Z-Tyr(t-Bu)-OH | 36.9 mmol, 13.7 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H25NO5
reactant | 1-hydroxybenzotriazole | 41.0 mmol, 5.54 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 41.0 mmol, 7.86 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd-C | 32 g | [Pd] | Pd
product | Z-Tyr(t-Bu)-DArg(Tos)-Phe-MeβAla-O-t-Bu | 27.8 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(CCC(=O)OC(C)(C)C)C)C(=O)OCC1=CC=CC=C1 | C51H67N7O10S
